US04772600
2-(4-Bromophenyl)-N-(1-ethyl-3-pyrrolidinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0151 mole), 1,1'-carbonyldiimidazole (2.45 g, 0.0151 mole), and anhydrous tetrahydrofuran (100 ml) was stirred at room temperature with a stream of nitrogen bubbling through it for 3 hours. The nitrogen flow was stopped and a solution of 1-ethyl-3-aminopyrrolidine (1.89 g, 0.0166 mole) in dry tetrahydrofuran (25 ml) was added. The solution was stirred at room temperature under nitrogen for 2 hours. The reaction mixture was concentrated in vacuo and the residue triturated in water (100 ml) and filtered. The filter cake was recrystallized from isopropyl alcohol-isopropyl ether to give 4.64 g (72%) of white needles, mp 202.5°-204° C.

reactant | 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0151 mole, 5.0 g | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0151 mole, 2.45 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-ethyl-3-aminopyrrolidine | 0.0166 mole, 1.89 g | C(C)N1CC(CC1)N | C6H14N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Bromophenyl)-N-(1-ethyl-3-pyrrolidinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 4.64 g, 72% | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1CN(CC1)CC | C20H22BrN5O
